US08791107B2
2-(2-methoxypyridin-4-yl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
The title compound was prepared in a manner similar to EXAMPLE 1 using 2-methoxypyridin-4-ylboronic acid (270 mg, 1.765 mmol), 2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x2, 200 mg, 0.882 mmol), and PdCl2(dppf) (51.7 mg, 0.071 mmol) in dioxane (5 mL) and aqueous saturated NaHCO3 (1 mL). 1H NMR (400 MHz, DMSO-d6) δ 3.01-3.23 (m, 7H), 3.89 (m, 3H), 3.92-3.97 (m, 1H), 3.99-4.06 (m, 1H), 4.53-4.62 (m, 1H), 7.47 (d, J=0.76 Hz, 1H), 7.62 (s, 1H), 7.68 (dd, J=5.31, 1.52 Hz, 1H), 8.24 (d, J=5.56 Hz, 1H). ESI-MS m/z [M+H]+ calc'd for C15H17N5O2, 299.14. found 300.2.

reactant | 2-methoxypyridin-4-ylboronic acid | 1.765 mmol, 270 mg | COC1=NC=CC(=C1)B(O)O | C6H8BNO3
reactant | 2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.882 mmol, 200 mg | ClC1=NC=2N3C(CNC2C=N1)COCC3 | C9H11ClN4O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 0.071 mmol, 51.7 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(2-methoxypyridin-4-yl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | COC1=NC=CC(=C1)C1=NC=2N3C(CNC2C=N1)COCC3 | C15H17N5O2
